US07230011B2
Combine 3-bromo-4-nitrophenol (1 eq.), triethylamine (1.1 eq.) and tert-butyldimethylsilyl chloride (1.1 eq.) in methylene chloride at 0° C. After about 6 hours, pour the reaction mixture into ethyl acetate, wash with brine, dry the organic layer over Na2SO4 and then concentrate. Purify to give 3-bromo-4-nitro-1-tert-butyldimethylsilyloxybenzene.

reactant | 3-bromo-4-nitrophenol | 1 eq. | BrC=1C=C(C=CC1[N+](=O)[O-])O | C6H4BrNO3
reactant | triethylamine | 1.1 eq. | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 1.1 eq. | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-bromo-4-nitro-1-tert-butyldimethylsilyloxybenzene | BrC=1C=C(C=CC1[N+](=O)[O-])O[Si](C)(C)C(C)(C)C | C12H18BrNO3Si
